US06333320B1
230 mg of N-(4-(4-methylhexahydro-1H-1,4-diazepin-1-yl)phenyl]-N-[(7-cyano-2-naphthyl)methyl]sulfamide was dissolved in 9.2 ml of ethanol, to which were added 0.25 ml of triethylamine and 90 mg of hydroxylamine hydrochloride. The mixture was heated for reflux for 2 hours. The reaction mixture was evaporated, and the resulting residue was purified through silica gel column chromatography using an eluent solvent of concentrated ammonia water/methanol/chloroform (0.1/1/7). The solvent was evaporated, and a small amount of aqueous 1 N hydrochloric acid was to the residue, and then evaporated again in vacuo, to obtain 41 mg of N-[(7-hydroxyamidino-2-naphthyl)methyl]-N-[4-(4-methylhexa-hydro-1H-1,4-diazepin-1-yl)phenyl]sulfamide trichloride.

reactant | N-(4-(4-methylhexahydro-1H-1,4-diazepin-1-yl)phenyl]-N-[(7-cyano-2-naphthyl)methyl]sulfamide | 230 mg | CN1CCN(CCC1)C1=CC=C(C=C1)N(S(=O)(=O)N)CC1=CC2=CC(=CC=C2C=C1)C#N | C24H27N5O2S
reactant | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 90 mg | Cl.NO
solvent | ethanol | 9.2 ml | C(C)O | C2H6O
product | N-[(7-hydroxyamidino-2-naphthyl)methyl]-N-[4-(4-methylhexa-hydro-1H-1,4-diazepin-1-yl)phenyl]sulfamide trichloride | 41 mg | [Cl-].[Cl-].[Cl-].ONC(=N)C1=CC=C2C=CC(=CC2=C1)CN(S(=O)(=O)N)C1=CC=C(C=C1)N1CCN(CCC1)C | InChI=1S/C24H30N6O3S.3ClH/c1-28-11-2-12-29(14-13-28)22-7-9-23(10-8-22)30(34(26,32)33)17-18-3-4-19-5-6-20(24(25)27-31)16-21(19)15-18;;;/h3-10,15-16,31H,2,11-14,17H2,1H3,(H2,25,27)(H2,26,32,33);3*1H/p-3
